US05151550
A solution of 4-chlorobenzyl chloride (266 g, 1.65 mol) in diethyl ether (200 ml) was added slowly to a stirred mixture of magnesium (42 g, 1.73 mol) in diethyl ether (700 ml) to maintain the mixture at reflux. The mixture was warmed for a further 20 minutes after addition was complete. A solution of 4,4-dimethylcyclohex- 2-en-1-one (226 g, 1.82 mol) in diethyl ether (60 ml) was then added dropwise over a period of 30 minutes so as to maintain the mixture at reflux and the mixture stirred overnight. The mixture was then quenched with water (250 ml) and hydrochloric acid (5M, 500 ml), extracted with diethyl ether (3×400 ml), backwashed once with sodium bicarbonate solution (5% w/v) and once with water and then dried with anhydrous magnesium sulphate. The solvent was then flashed off to give 369 g 1-(4-chlorobenzyl)-4,4-dimethylcyclohex-2-en-1-ol as an oil.

reactant | 4-chlorobenzyl chloride | 1.65 mol, 266 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | magnesium | 1.73 mol, 42 g | [Mg] | Mg
reactant | 4,4-dimethylcyclohex- 2-en-1-one | 1.82 mol, 226 g | CC1(C=CC(CC1)=O)C | C8H12O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 700 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 1-(4-chlorobenzyl)-4,4-dimethylcyclohex-2-en-1-ol | 369 g | ClC1=CC=C(CC2(C=CC(CC2)(C)C)O)C=C1 | C15H19ClO
